US08426447B2
To a solution of (R)-2-amino-2′-(2,2-dimethylmorpholino)-5H-spiro[oxazole-4,9′-xanthen]-7′-ol (370 mg, 0.970 mmol) in DCM (4850 μL), were added triethylamine (270 μL, 1.940 mmol) and 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide (520 mg, 1.455 mmol). After stirring at room temperature for 60 hours the mixture was directly loaded onto 12 g RediSep column and purified using 15-60% DCM/MeOH/NH4OH to afford (R)-2-amino-2′-(2,2-dimethylmorpholino)-5H-spiro[oxazole-4,9′-xanthene]-7′-yl trifluoromethanesulfonate.

reactant | (R)-2-amino-2′-(2,2-dimethylmorpholino)-5H-spiro[oxazole-4,9′-xanthen]-7′-ol | 0.970 mmol, 370 mg | NC=1OC[C@@]2(C3=CC(=CC=C3OC=3C=CC(=CC23)N2CC(OCC2)(C)C)O)N1 | C21H23N3O4
reactant | triethylamine | 1.940 mmol, 270 μL | C(C)N(CC)CC | C6H15N
reactant | 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide | 1.455 mmol, 520 mg | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1)(F)F | C8H5F6NO4S2
solvent | DCM | 4850 μL | C(Cl)Cl | CH2Cl2
product | (R)-2-amino-2′-(2,2-dimethylmorpholino)-5H-spiro[oxazole-4,9′-xanthene]-7′-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CC=C2OC=3C=CC(=CC3[C@]3(C2=C1)N=C(OC3)N)N3CC(OCC3)(C)C)(F)F | C22H22F3N3O6S
